US08487109B2
N-(2-Hept-1ynyl-phenyl)-acetamide
This product was prepared from toluene-4-sulfonic acid 2-acetylamino-phenyl ester and 1-heptyne following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane/EtOAc 8:2; yield (92 mg, 80%); 1H NMR δ (CDCl3): 8.47 (d, J=8.51 Hz, 1H), 7.93 (br s, 1H), 7.36 (dm, 1H), 7.31-7.23 (m, 1H), 7.02 (t, J=7.22 Hz, 1H), 2.53 (t, J=7.08 Hz, 2H), 2.21 (s, 3H), 1.63 (p, J=7.11 Hz, 2H), 1.48-1.3 (m, 4H), 0.92 (t, J=7.2 Hz, 3H); LCMS m/z: 229.

reactant | toluene-4-sulfonic acid 2-acetylamino-phenyl ester | C(C)(=O)NC1=C(C=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C15H15NO4S
reactant | 1-heptyne | C#CCCCCC | C7H12
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | N-(2-Hept-1ynyl-phenyl)-acetamide | C(#CCCCCC)C1=C(C=CC=C1)NC(C)=O | C15H19NO
